US05061726
A mixture of 4-bromo-3-fluorobenzylidene diacetate (15 g), ethanol (41 ml), water (41 ml) and concentrated sulphuric acid (4 ml) was heated to reflux for 3 hours. After cooling, ether (300 ml) was added and the aqueous layer separated. The organic phase was washed with saturated sodium carbonate and brine before drying over anhydrous magnesium sulphate and evaporation in vacuo. 4-Bromo-3-fluorobenzaldehyde was obtained as a solid (7.3 g).

reactant | 4-bromo-3-fluorobenzylidene diacetate | 15 g | C(C)(=O)OC(C1=CC(=C(C=C1)Br)F)OC(C)=O | C11H10BrFO4
reactant | ethanol | 41 ml | C(C)O | C2H6O
reactant | water | 41 ml | O | H2O
reactant | sulphuric acid | 4 ml | S(O)(O)(=O)=O | H2O4S
solvent | ether | 300 ml | CCOCC | C4H10O
product | 4-Bromo-3-fluorobenzaldehyde | BrC1=C(C=C(C=O)C=C1)F | C7H4BrFO
